US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-methoxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (0.043 g, 0.347 mmol), triethylamine (0.035 g, 0.347 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.059 g, 0.347 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-methoxybenzoic acid (0.060 g, 0.173 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (ethyl acetate) to obtain the titled compound (0.044 g, 0.0975 mmol, 56%).

reactant | p-Methoxyaniline | 0.347 mmol, 0.043 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.347 mmol, 0.035 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.347 mmol, 0.059 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-methoxybenzoic acid | 0.173 mmol, 0.060 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC)C)=O | C18H18O7
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-methoxybenzoyl]-4-methoxyaniline | 0.0975 mmol, 0.044 g, 56% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)OC)C)=O | C25H25NO7
